US06399629B1
(A) 4-(1-Hydroxy-1-phenylmethyl)-1,2-diaminobenzene
3,4-Diaminobenzophenone (5.79 g, 27 mmol) was dissolved in MeOH (80 mL) and cooled to 0° C. A solution of NaBH4 (4.12 g, 109 mmol) in MeOH (30 mL) was added dropwise over 10 min. The mixture was stirred for 2 hours and concentrated to dryness. The residue was dissolved in EtOAc and washed with NaHCO3 (3×50 mL). The organic layer was dried over Na2SO4, filtered and concentrated to afford the title compound (5.3 g, 90%): 1HNMR (400 MHz, CDCl3) δ 5.6-5.65 (1H, s), 6.6-6.7 (3H, m), 7.2-7.45 (5H, m).

reactant | 3,4-Diaminobenzophenone | 27 mmol, 5.79 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
reactant | NaBH4 | 109 mmol, 4.12 g | [BH4-].[Na+]
solvent | MeOH | 80 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
product | 4-(1-Hydroxy-1-phenylmethyl)-1,2-diaminobenzene | 5.3 g, 90% | OC(C1=CC=CC=C1)C1=CC(=C(C=C1)N)N | C13H14N2O
